US06342765B1
tert-Butyl (2S)-2-{5-[1-(thiazol-2-y)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfonylbutyrate
The title compound was prepared in 75% yield from 5-[1-(thiazol-2-yl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoic acid and L-methionine sulphone tert-butyl ester by similar methodology to that used for Example 40.

reactant | 5-[1-(thiazol-2-yl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoic acid | S1C(=NC=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)O)C1)CCC1=CC=C(C=C1)F | C23H20FN3O3S
reactant | tert-butyl (2S)-2-amino-4-(methylsulfonyl)butanoate | N[C@H](C(=O)OC(C)(C)C)CCS(=O)(=O)C | C9H19NO4S
product | tert-Butyl (2S)-2-{5-[1-(thiazol-2-y)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfonylbutyrate | 75% yield | S1C(=NC=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)N[C@H](C(=O)OC(C)(C)C)CCS(=O)(=O)C)C1)CCC1=CC=C(C=C1)F | C32H37FN4O6S2
